US06858627B2
A mixture of 20.8 g of 4-bromonitrobenzene and 17.2 g of 2-methoxyphenyl boronic acid in 340 mL of ethylene glycol dimethyl ether and 170 mL of 2 M sodium carbonate solution was purged with argon gas and then 3.6 g of Pd(PPh3)2Cl2 was added under argon atmosphere. The reaction mixture was heated in a sealed flask at 120° C. overnight. The reaction mixture was cooled down to room temperature. The mixture was filtered through diatomaceous earth and the filtrate was diluted with water and the product was extracted three times with EtOAc. The organic layers were combined, dried over magnesium sulfate (MgSO4), and the solvent was evaporated in vacuo. The residue was purified by flash chromatography to yield 17.1 g of 2-methoxy-4′-nitrobiphenyl as a solid.

reactant | 4-bromonitrobenzene | 20.8 g | BrC1=CC=C(C=C1)[N+](=O)[O-] | C6H4BrNO2
reactant | 2-methoxyphenyl boronic acid | 17.2 g | COC1=C(C=CC=C1)B(O)O | C7H9BO3
solvent | ethylene glycol dimethyl ether | 340 mL | COCCOC | C4H10O2
solvent | sodium carbonate | 2 M, 170 mL | C([O-])([O-])=O.[Na+].[Na+]
product | 2-methoxy-4′-nitrobiphenyl | 17.1 g | COC1=C(C=CC=C1)C1=CC=C(C=C1)[N+](=O)[O-] | C13H11NO3
